US07842694B2
3-({(1S)-2-[(Difluoromethyl)oxy]-1-methylethyl}oxy)-N-(1-methyl-1H-pyrazol-3-yl)-5-[(phenylmethyl)oxy]benzamide
DIPEA (0.198 mL, 1.14 mmol) was added to a mixture of 3-({(1S)-2-[(difluoromethyl)oxy]-1-methylethyl}oxy)-5-[(phenylmethyl)oxy]benzoic acid (0.1 g, 0.28 mmol), 3-amino-1-methylpyrazole (39 mg, 0.4 mmol) and HATU (0.227 g, 0.6 mmol) in DMF (3 mL) and stirred at RT for 20 hours. Ethyl acetate (30 mL) was added and the mixture washed with water (30 mL), brine (30 mL), dried (MgSO4), filtered and reduced in vacuo to give a yellow oil which was chromatographed on silica, eluting with a gradient of 0-100% ethyl acetate in isohexane, to give the desired compound (0.1 g).

reactant | DIPEA | 1.14 mmol, 0.198 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-({(1S)-2-[(difluoromethyl)oxy]-1-methylethyl}oxy)-5-[(phenylmethyl)oxy]benzoic acid | 0.28 mmol, 0.1 g | FC(OC[C@H](C)OC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1)F | C18H18F2O5
reactant | 3-amino-1-methylpyrazole | 0.4 mmol, 39 mg | NC1=NN(C=C1)C | C4H7N3
reactant | HATU | 0.6 mmol, 0.227 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 3-({(1S)-2-[(Difluoromethyl)oxy]-1-methylethyl}oxy)-N-(1-methyl-1H-pyrazol-3-yl)-5-[(phenylmethyl)oxy]benzamide | 0.1 g | FC(OC[C@H](C)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)OCC1=CC=CC=C1)F | C22H23F2N3O4
